US09193741B2
Synthesis of 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-(1-(4-chlorophenoxyacetyl)pyrrolidin-3-(S)-ylamino)-thiazolo[5,4-d]pyrimidine
To a solution of 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-(1-tert-butoxycarbonyl-pyrrolidin-3-(S) -ylamino)-thiazolo[5,4-d]pyrimidine (70 mg, 0.15 mmol) in dichloromethane (1 ml) was added trifluoroacetic acid (1 ml). The reaction mixture was stirred at room temperature for 2 hours after which the solvents were removed in vacuo. The residue was dissolved in dichloromethane (3 ml) and diisopropylethylamine (1.5 mmol, 252 μL) and 4-chlorophenoxyacetyl chloride (0.17 mmol) were added. The reaction mixture was stirred at room temperature for 16 hours whereupon the solvent was removed in vacuo. The resulting residue was purified by flash chromatography on silica, the mobile phase being a mixture of methanol and dichloromethane (in a ratio gradually ranging from 100% CH2Cl2 to 1.5% CH3OH in CH2Cl2), yielding the pure title compound (37 mg) which was characterized by its mass spectrum: MS m/z (%): 527 ([M+H]+, 100).

reactant | 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-(1-tert-butoxycarbonyl-pyrrolidin-3-(S) -ylamino)-thiazolo[5,4-d]pyrimidine | 0.15 mmol, 70 mg | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)F)N[C@@H]2CN(CC2)C(=O)OC(C)(C)C | C22H27FN6O2S
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropylethylamine | 1.5 mmol, 252 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-chlorophenoxyacetyl chloride | 0.17 mmol | ClC1=CC=C(OCC(=O)Cl)C=C1 | C8H6Cl2O2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 5-amino-2-[2-(4-fluorophenyl)ethyl]-7-(1-(4-chlorophenoxyacetyl)pyrrolidin-3-(S)-ylamino)-thiazolo[5,4-d]pyrimidine | 37 mg | NC=1N=C(C2=C(N1)SC(=N2)CCC2=CC=C(C=C2)F)N[C@@H]2CN(CC2)C(COC2=CC=C(C=C2)Cl)=O | C25H24ClFN6O2S
